**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 5
* SIMULATION TYPE: ac_point_dc_sweep
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/common/model_files/dut.cir

** Start testbenches

********************* dut testbench 21_0 *********************
v_gs_ac_21_0 g_21_0 g_ac_21_0 DC 0 AC 1
e_gs_21_0 g_ac_21_0 0 v_sweep 0 1
v_ds_21_0 d_21_0 0 0.0
v_s_21_0 s_21_0 0 0
v_bs_21_0 b_21_0 0 0.0
x_21_0 d_21_0 g_21_0 s_21_0 b_21_0 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

********************* dut testbench 21_2 *********************
v_gs_ac_21_2 g_21_2 g_ac_21_2 DC 0 AC 1
e_gs_21_2 g_ac_21_2 0 v_sweep 0 1
v_ds_21_2 d_21_2 0 0.0
v_s_21_2 s_21_2 0 0
v_bs_21_2 b_21_2 0 -1.0
x_21_2 d_21_2 g_21_2 s_21_2 b_21_2 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut a0 = 0.6368976781988045
alterparam dut a1 = 0.08604105577729285
alterparam dut a2 = 0.8863955726784554
alterparam dut acde = 1.2112213821302449
alterparam dut ags = 0.5568397186267102
alterparam dut bin_lketa = 0.44991976577168363
alterparam dut bin_pketa = 0.6730346603532891
alterparam dut bin_ppclm = 0.8951056238863198
alterparam dut bin_prdsw = 0.4937641439563466
alterparam dut bin_pvsat = 0.11019838999257128
alterparam dut bin_wk3 = 0.16152832155021235
alterparam dut bin_wk3b = 0.48808154659483916
alterparam dut bin_wketa = 0.6749418479905697
alterparam dut cf = 1.711868748188913e-10
alterparam dut cgdl = 2.052770866088609e-10
alterparam dut cgdo = 2.0442427201088287e-10
alterparam dut ckappas = 3.895029410048853
alterparam dut clc = 2.436763032045542e-07
alterparam dut cle = 0.6989119163427275
alterparam dut dlc = 9.567832973604801e-08
alterparam dut drout = 0.8407755660067235
alterparam dut dsub = 0.4877303318042985
alterparam dut dvt0 = 4.700522218342208
alterparam dut dvt0w = 1*-0.46060667623277407
alterparam dut dvt1 = 1.2992263213401491
alterparam dut dvt1w = 153581.5295491067
alterparam dut dvt2 = 1*-0.08213332508214304
alterparam dut dvt2w = 1*-0.04462222976243535
alterparam dut dwg = 7.568234307135326e-08
alterparam dut eta0 = 0.7766013939607285
alterparam dut etab = 1*-0.325768270930923
alterparam dut k1 = 0.4425154273864449
alterparam dut k2 = 0.024256866716968667
alterparam dut k3 = 1*-93.87331181082693
alterparam dut k3b = 13.147836503571554
alterparam dut keta = 1*-0.016011897802232347
alterparam dut lint = 1*-9.628046836752117e-08
alterparam dut ll = 1.432405167930912e-14
alterparam dut lwl = 3.807859612038772e-20
alterparam dut moin = 13.693636795058133
alterparam dut ndep = 4.0007585829282816e+17
alterparam dut nfactor = 0.17221631852999852
alterparam dut ngate = 3.9653326508955575e+21
alterparam dut noff = 3.46982297001655
alterparam dut pclm = 0.00920907202383482
alterparam dut pdiblc1 = 0.00014846511889051586
alterparam dut pdiblc2 = 0.0431285113296708
alterparam dut pdiblcb = 0.1698308988771393
alterparam dut pvag = 1.7869871335413174
alterparam dut rdsw = 1552.5067939949502
alterparam dut toxp = 6.693020646328701e-09
alterparam dut u0 = 388.2912959953512
alterparam dut ua = 4.862496462238952e-09
alterparam dut ub = 2.5890846302723794e-20
alterparam dut uc = 1*-2.2836247244572958e-09
alterparam dut voff = 1*-0.10638986525938483
alterparam dut voffcv = 0.44362367811508197
alterparam dut voffl = 1*-7.298166117394171e-08
alterparam dut vsat = 168943.79530224734
alterparam dut vth0 = 0.4878631735759842
alterparam dut w0 = 1.2111362607924755e-06
alterparam dut wint = 5.4261966016507e-09
alterparam dut ww = 1*-3.9583112268234545e-14
alterparam dut wwl = 8.997612886443667e-20
alterparam dut xpart = 0.8847947222210764
reset
** Model parameters end

** Declare the vectors to save.
save i(v_s_21_2) i(v_s_21_0)

** Write the header of the results file.
echo "vgs,cgs_21_0,cgs_21_2" > /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/models/model_1.0e00713a-4f68-42d4-9653-2a40c98c558f/calibration_26_07_2024-23_51_01/simulation_files/ac_point_dc_sweep_5.csv

** Start the simulation loop.
compose values_list start=-2.0 stop=2.0 step=0.05
foreach val $&values_list
    alter v_sweep $val
    ac lin 1 10000.0 10000.0

    let cgs_21_0 = abs(imag(i(v_s_21_0)))/2*pi*10000.0
    let cgs_21_2 = abs(imag(i(v_s_21_2)))/2*pi*10000.0

    echo "$val,$&cgs_21_0,$&cgs_21_2" >> /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/models/model_1.0e00713a-4f68-42d4-9653-2a40c98c558f/calibration_26_07_2024-23_51_01/simulation_files/ac_point_dc_sweep_5.csv
end

.endc
********** End of control section **********

.end